US07622466B2
[5-(3-Piperidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-pyrrolidin-1-yl-methanone
The title compound was synthesized in analogy to example 1 from 5-(3-piperidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid hydrochloride and pyrrolidine to give the desired product as a colorless solid (70%).

reactant | 5-(3-piperidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid hydrochloride | Cl.N1(CCCCC1)CCCOC=1C=C2C(=NC1)NC(=C2)C(=O)O
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | [5-(3-Piperidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-pyrrolidin-1-yl-methanone | 70% | N1(CCCCC1)CCCOC=1C=C2C(=NC1)NC(=C2)C(=O)N2CCCC2 | C20H28N4O2
